US05849747
(2) Preparation of 2-benzyl 3-tert-butyl (2RS,3RS)-5-oxotetrahydrofuran-2 , 3-dicarboxylate
6.53 g of (2RS,3SR)-2-benzyloxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid was dissolved in 70 ml of chloroform, and 4.53 g of 4-dimethylaminopyridine, 7.11 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 4.70 ml of tert-butyl alcohol were sequentially added thereto, followed by stirring at room temperature for 14 hours. The reaction solution was poured into 1N hydrochloric acid cooled with ice and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the drying agent was filtered off. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), to obtain 5.16 g of the above-identified compound as a white solid.

reactant | (2RS,3SR)-2-benzyloxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid | 6.53 g | C(C1=CC=CC=C1)OC(=O)C1OC(CC1C(=O)O)=O | C13H12O6
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | tert-butyl alcohol | 4.70 ml | C(C)(C)(C)O | C4H10O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 4.53 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-benzyl 3-tert-butyl (2RS,3RS)-5-oxotetrahydrofuran-2 , 3-dicarboxylate | 5.16 g | O=C1CC(C(O1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H20O6
